US20010041709A1
Diisobutylaluminium hydride (1.0 M solution in toluene, 42 mL, 42 mmol) was added, under a nitrogen atmosphere at −70° C., to a stirred solution of (E)-5-phenyl-pent-2-en-4-ynoic acid ethyl ester (1.2 g, 5.99 mmol) in dry THF (105 mL). After stirring for 1.5 h, the reaction mixture was quenched with methanol (5 mL) followed by saturated aqueous Rochelle's salt (90 mL) and 1 N sodium hydroxide (40 mL). The organic phase was separated, and the aqueous phase extracted with ethyl acetate (250 mL, 2x). The combined organic phases were dried (MgSO4), filtered and concentrated in vacuo to give 948 mg (100%) of (E)-5-phenyl-pent-2-en-4-yn-1-ol.

reactant | Diisobutylaluminium hydride | 42 mmol, 1.0 M, 42 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | (E)-5-phenyl-pent-2-en-4-ynoic acid ethyl ester | 5.99 mmol, 1.2 g | C(C)OC(\C=C\C#CC1=CC=CC=C1)=O | C13H12O2
solvent | THF | 105 mL | C1CCOC1 | C4H8O
product | (E)-5-phenyl-pent-2-en-4-yn-1-ol | 948 mg, 100% | C1(=CC=CC=C1)C#C/C=C/CO | C11H10O
